US07244730B2
(Step 4) 3-(Azidomethyl)-6-methyl-2-pyridinecarbonitrile
Trimethylsilyl cyanide (6.4 ml, 48 mmol) and dimethylcarbamyl chloride (4.2 ml, 46 mmol) were added in that order to a solution of the 5-(azidomethyl)-2-methyl-1-pyridiniumolate (7.08 g, 43.2 mmol) in methylene chloride (80 ml) at room temperature and the mixture was stirred at the same temperature for 23 hours. After confirming completion of the reaction by thin layer chromatography, saturated aqueous sodium hydrogencarbonate (80 ml) was added and the mixture was stirred for 10 minutes. The reaction mixture was diluted with ethyl acetate, the aqueous layer was separated and extraction was performed with ethyl acetate. The collected organic layer was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (5.79 g, 56%, two steps) as a colorless oil.

reactant | Trimethylsilyl cyanide | 48 mmol, 6.4 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamyl chloride | 46 mmol, 4.2 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | 5-(azidomethyl)-2-methyl-1-pyridiniumolate | 43.2 mmol, 7.08 g | N(=[N+]=[N-])CC=1C=CC(=[N+](C1)[O-])C | C7H8N4O
reactant | sodium hydrogencarbonate | 80 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Azidomethyl)-6-methyl-2-pyridinecarbonitrile | 5.79 g, 56% | N(=[N+]=[N-])CC=1C(=NC(=CC1)C)C#N | C8H7N5
